US08877934B2
Step G: 3-Methyl-N2-(4-quinolyl)butane-1,2-diamine
3-Methyl-2-(4-quinolylamino)butanamide (460 mg, 1.9 mmol) was dissolved in anhydrous THF (30 ml) under argon, the mixture was cooled to 0° C. and a 1M solution of borane in anhydrous THF (8 ml, 8 mmol) was added with stirring. Stirring was continued for 1 hour at 0° C., the cooling bath was removed and the mixture was allowed to warm to room temperature overnight with stirring. The mixture was quenched with 1M NaOH and extracted with ethyl acetate. The organic phase was evaporated to dryness under reduced pressure and the residue was purified by column chromatography (pre-packed silica column, gradient of ethyl acetate/methanol containing 1% ammonia). 220 mg was obtained (0.96 mmol, 51%). MS (APCI) m/z=229.8 [M+H]+.

reactant | 3-Methyl-2-(4-quinolylamino)butanamide | 1.9 mmol, 460 mg | CC(C(C(=O)N)NC1=CC=NC2=CC=CC=C12)C | C14H17N3O
reactant | borane | B | BH3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 8 mmol, 8 ml | C1CCOC1 | C4H8O
product | 3-Methyl-N2-(4-quinolyl)butane-1,2-diamine | CC(C(CN)NC1=CC=NC2=CC=CC=C12)C | C14H19N3
